US03968231
7-Fluoro-4-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-acetoxybutyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole ##EQU9##
Acetyl chloride (260 mg., 3.3 m moles) in 10 ml. of methylene chloride is added dropwise to a cold solution of 959 mg. (2.2 m moles) of 7-fluoro-4-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-hydroxybutyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole in 30 ml. of methylene chloride containing 350 mg. (4.4 m moles) of pyridine. Following the addition, the reaction mixture is allowed to warm to room temperature and stir overnight. The mixture is decanted into a cold saturated aqueous sodium bicarbonate solution, and the crude product is extracted (3 × 50 ml.) with methylene chloride. The combined organic extracts are dried over magnesium sulfate and concentrated to an oil, which on chromatographing on a silica gel column, using 1:1 benzene-ethyl acetate as an eluate, provides the purified product.

reactant | Acetyl chloride | 260 mg | C(C)(=O)Cl | C2H3ClO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 7-fluoro-4-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-hydroxybutyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CN(C3)CCCC(O)C3=CC=C(C=C3)F | C26H23F3N2O
reactant | methylene chloride | 350 mg | C(Cl)Cl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-Fluoro-4-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-acetoxybutyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CN(C3)CCCC(OC(C)=O)C3=CC=C(C=C3)F | C28H25F3N2O2
